### PR TITLE
[Merged by Bors] - feat: Add simp lemmas for vectors, and a way to index vectors with Nats

### PR DESCRIPTION
**Pull request by alexkeizer**
Co-authored-by Chris Hughes

---

Mostly adds a collection of simp lemmas for various operations on vectors.
Also adds a way to index vectors with `Nat`, returning `none` if the `Nat` is out of range, plus define `GetElem` instances for the convenient `x[i]` notation on vectors.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Vector.lean [hunk 1]
```diff
@@ -95,6 +95,11 @@ def get : ∀ _ : Vector α n, Fin n → α
   | ⟨l, h⟩, i => l.nthLe i.1 (by rw [h] ; exact i.2)
 #align vector.nth Vector.get
 
+/-- nth element of a vector, indexed by a `Nat`.
+Returns `none` if vector is not long enough-/
+def get? : ∀ _ : Vector α n, Nat → Option α
```
Comment (gebner) [inline Mathlib/Data/Vector.lean:100]: This isn't used, you should probably use `a[i]?` instead.

File: Mathlib/Data/Vector.lean [hunk 2]
```diff
@@ -258,4 +264,10 @@ theorem toList_take {n m : ℕ} (v : Vector α m) : toList (take n v) = List.tak
   rfl
 #align vector.to_list_take Vector.toList_take
 
+instance {α : Type u} {n : Nat} : GetElem (Vector α n) (Fin n) α (fun _ _ => True) where
+  getElem := fun x i _ => get x i
```
Comment (gebner) [inline Mathlib/Data/Vector.lean:268]: This conflicts with another instance in core that has a different outparam.  I'd just put the same instance here like we do for arrays, i.e., only the `Nat` one.  https://github.com/leanprover/lean4/blob/bff612e59e4860bef5180db08356ab5f256bea86/src/Init/Data/Fin/Basic.lean#L120

File: Mathlib/Data/Vector.lean [hunk 3]
```diff
@@ -258,4 +264,10 @@ theorem toList_take {n m : ℕ} (v : Vector α m) : toList (take n v) = List.tak
...
+
+instance {α : Type u} {n : Nat} : GetElem (Vector α n) Nat α (fun _ i => i < n) where
+  getElem := fun x i h => get x ⟨i,h⟩
```
Comment (gebner) [inline Mathlib/Data/Vector.lean:271]:
```suggestion
  getElem := fun x i h => get x ⟨i, h⟩
```

File: Mathlib/Data/Vector.lean [hunk 4]
```diff
@@ -258,4 +264,10 @@ theorem toList_take {n m : ℕ} (v : Vector α m) : toList (take n v) = List.tak
   rfl
 #align vector.to_list_take Vector.toList_take
 
+instance {α : Type u} {n : Nat} : GetElem (Vector α n) (Fin n) α (fun _ _ => True) where
+  getElem := fun x i _ => get x i
+
+instance {α : Type u} {n : Nat} : GetElem (Vector α n) Nat α (fun _ i => i < n) where
```
Comment (gebner) [inline Mathlib/Data/Vector.lean:270]:
```suggestion
instance : GetElem (Vector α n) Nat α fun _ i => i < n where
```

File: Mathlib/Data/Vector/Basic.lean [hunk 5]
```diff
@@ -506,6 +515,34 @@ def inductionOn₃ {C : ∀ {n}, Vector α n → Vector β n → Vector γ n →
     apply ih
 #align vector.induction_on₃ Vector.inductionOn₃
 
+/-- Define `motive v` by case-analysis on `v : Vector α n` -/
+def casesOn {motive : ∀{n}, Vector α n → Sort _}
```
Comment (gebner) [inline Mathlib/Data/Vector/Basic.lean:519]:
```suggestion
def casesOn {motive : ∀ {n}, Vector α n → Sort _}
```

File: Mathlib/Data/Vector/Basic.lean [hunk 6]
```diff
@@ -736,4 +773,39 @@ instance : IsLawfulTraversable.{u} (flip Vector n) where
...
+
+@[simp]
+theorem get_append_cons_succ {i : Fin (n + m)} {h} :
+    get (append (x ::ᵥ xs) ys) ⟨i+1, h⟩ = get (append xs ys) i :=
+  rfl
+
+@[simp]
+theorem append_nil : (append xs nil) = xs :=
+  by cases xs; simp[append]
+
```
Comment (gebner) [inline Mathlib/Data/Vector/Basic.lean:792]:
```suggestion
```

File: Mathlib/Data/Vector/Basic.lean [hunk 7]
```diff
@@ -736,4 +773,39 @@ instance : IsLawfulTraversable.{u} (flip Vector n) where
...
+  rfl
+
+@[simp]
+theorem get_append_cons_succ {i : Fin (n + m)} {h} :
+    get (append (x ::ᵥ xs) ys) ⟨i+1, h⟩ = get (append xs ys) i :=
+  rfl
+
+@[simp]
+theorem append_nil : (append xs nil) = xs :=
+  by cases xs; simp[append]
```
Comment (gebner) [inline Mathlib/Data/Vector/Basic.lean:791]:
```suggestion
theorem append_nil : append xs nil = xs := by
  cases xs; simp [append]
```

File: Mathlib/Data/Vector/Basic.lean [hunk 8]
```diff
@@ -736,4 +773,39 @@ instance : IsLawfulTraversable.{u} (flip Vector n) where
 --       q(α) q(n) q(x) ih
 -- #align vector.reflect vector.reflect
 
+@[simp]
+theorem replicate_succ : replicate (n+1) val = val ::ᵥ (replicate n val) :=
+  rfl
+
+@[simp]
+theorem get_append_cons_zero : get (append (x ::ᵥ xs) ys) ⟨0, by simp⟩ = x :=
```
Comment (gebner) [inline Mathlib/Data/Vector/Basic.lean:781]:
```suggestion
theorem get_append_cons_zero : (append (x ::ᵥ xs) ys)[0] = x :=
```
We probably want to standardize on a simp-normal form here, either `get` or `·[·]`.  For arrays we simplify everything to `·[·]` so I think this would be good here as well.  [@[simp] theorem get_eq_getElem (a : Array α) (i : Fin _) : a.get i = a[i.1] := rfl](https://github.com/leanprover/std4/blob/d5471b83378e8ace4845f9a029af92f8b0cf10cb/Std/Data/Array/Lemmas.lean#L40-L41)

File: Mathlib/Data/Vector/Basic.lean [hunk 9]
```diff
@@ -736,4 +773,39 @@ instance : IsLawfulTraversable.{u} (flip Vector n) where
...
+  induction v₁, v₂ using inductionOn₂
+  case nil =>
+    exact Fin.elim0 i
+  case cons x xs y ys ih =>
+    rw [map₂_cons]
+    cases i using Fin.cases
+    . simp only [get_zero, head_cons]
+    . simp only [get_cons_succ, ih]
+
+theorem get_eq_val_eq {α : Type u} {n : Nat} (x x' : Vector α n) (i : Fin n)
```
Comment (gebner) [inline Mathlib/Data/Vector/Basic.lean:806]: I'm not sure if we need this congruence lemma, it's also not used anywhere.  Using `Vector.eq` directly seems to be just as straightforward.

File: Mathlib/Data/Vector/Basic.lean (hunk 8 above)
Comment (alexkeizer) [reply Mathlib/Data/Vector/Basic.lean:781]: > We probably want to standardize on a simp-normal form here, either `get` or `·[·]`. For arrays we simplify everything to `·[·]` so I think this would be good here as well. [@[simp] theorem get_eq_getElem (a : Array α) (i : Fin _) : a.get i = a[i.1] := rfl](https://github.com/leanprover/std4/blob/d5471b83378e8ace4845f9a029af92f8b0cf10cb/Std/Data/Array/Lemmas.lean#L40-L41)

That does seem more consistent; do we then want to change all the existing `get_...` lemmas for `Vector` in terms of `·[·]`?

File: Mathlib/Data/Vector/Basic.lean (hunk 9 above)
Comment (alexkeizer) [reply Mathlib/Data/Vector/Basic.lean]: We indeed don't, removed it

File: Mathlib/Data/Vector/Basic.lean (hunk 8 above)
Comment (gebner) [reply Mathlib/Data/Vector/Basic.lean:781]: My personal preference is for `·[·]`, and I think that `Vector` is closer to `Array` than to `List`.  We generally don't access lists by index.

I don't remember any discussion about the simp-normal form for indexing.  Maybe it's best to take this to Zulip.

Comment (alexkeizer) [reply Mathlib/Data/Vector/Basic.lean:781]: I started a topic on Zulip: https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/simp.20normal.20form.20for.20.60Vector.60.20indexing.3A.20.60get.60.20vs.20.60.2E.5B.2E.5D.60

Comment (alexkeizer) [reply Mathlib/Data/Vector/Basic.lean:781]: Still, do you think we should change existing theorems in the current PR, or make the changes in a subsequent PR, so that it's a bit more clear which changes are new API, and which changes are just related to the new simp normal form?

**Comment by alexkeizer** [comment]
@gebner I've now made the change from `get v i` to `v[i.1]` as simp normal form in `Vector` files. The CI is still happy, because some downstream files are still broken and have to be updated. But before I continue on to fix those, I want to check in with you and confirm that this is indeed the direction we want to go to.

With the new simp normal form, some simp lemmas are not firing automatically anymore, and have to be explicitly given some of their arguments. Compare the following two proofs of `Vector.scanl_get` (admittedly, the worst case, most proofs worked just fine)
```lean
theorem scanl_get (i : Fin n) :
    (scanl f b v).get i.succ = f ((scanl f b v).get (Fin.castSucc i)) (v.get i) := by
  cases' n with n
  · exact i.elim0
  induction' n with n hn generalizing b
  · have i0 : i = 0 := Fin.eq_zero _
    simp [scanl_singleton, i0, get_zero]; simp [get_eq_get]
  · rw [← cons_head_tail v, scanl_cons, get_cons_succ]
    refine' Fin.cases _ _ i
    · simp only [get_zero, scanl_head, Fin.castSucc_zero, head_cons]
    · intro i'
      simp only [hn, Fin.castSucc_fin_succ, get_cons_succ]
```
And the new version:
```lean
theorem scanl_get (i : Fin n) :
    (scanl f b v)[i.1 + 1]'i.succ.2 = f ((scanl f b v)[i.1]) v[i.1] := by
  cases' n with n
  · exact i.elim0
  induction' n with n hn generalizing b
  · simp [scanl_singleton, get_zero, get_eq_get, get_cons_succ _ _ i]
  · rw [← cons_head_tail v, scanl_cons, get_cons_succ_nat (n:=n+2) _ _ i.1]
    refine' Fin.cases _ _ i
    · simp [get_zero_nat (n := n + 1), get_zero_nat (n := n + 2), scanl_head, head_cons]
    · intro i'
      simp only [Fin.val_succ, hn, get_cons_succ_nat (n := n + 2), get_cons_succ_nat (n := n + 1)]
```
Notice how `get_cons_succ` does not work, but instead we have to `get_cons_succ_nat (n := n + 2), get_cons_succ_nat (n := n + 1)` --- `get_cons_succ_nat` is a new version of the lemma in terms of `i : Nat` and `h : i < n`, instead of the old spelling in terms of `i : Fin n`, because the simplifier is quite aggresive with destructuring into `Nat`s.


Maybe it would be beneficial to get rid of `getElem_fin` as a simp-lemma (or even reverse it), so that we can at least keep indexing with `Fin`s instead of `Nat`s as the normal-form
```lean
@[simp] theorem getElem_fin [GetElem Cont Nat Elem Dom] (a : Cont) (i : Fin n) (h : Dom a i) :
    a[i] = a[i.1] := rfl
```
If we don't, then it would probably be less painful to write all theorems in terms of `i : Nat` and `h : i < n` instead of `i : Fin n`.

**Comment by alexkeizer** [comment]
The consensus on [Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/simp.20normal.20form.20for.20.60Vector.60.20indexing.3A.20.60get.60.20vs.20.60.2E.5B.2E.5D.60) seems to be that we want to stick with `Vector.get` for the normal form, so I've reverted the PR back to the original.
I have stashed the reverted changes in a `add-vector-api-opt3` branch, might we want to revisit this decision.

File: Mathlib/Data/Vector/Basic.lean [hunk 10]
```diff
@@ -506,6 +514,34 @@ def inductionOn₃ {C : ∀ {n}, Vector α n → Vector β n → Vector γ n →
     apply ih
 #align vector.induction_on₃ Vector.inductionOn₃
 
+/-- Define `motive v` by case-analysis on `v : Vector α n` -/
+def casesOn {motive : ∀ {n}, Vector α n → Sort _}
+            (v : Vector α m)
+            (nil : motive nil)
+            (cons : ∀{n}, (hd : α) → (tl : Vector α n) → motive (Vector.cons hd tl)) :
+              motive v :=
+    inductionOn (C:=motive) v nil @fun _ hd tl _ => cons hd tl
```
Comment (gebner) [inline Mathlib/Data/Vector/Basic.lean:523]:
```suggestion
def casesOn {motive : ∀ {n}, Vector α n → Sort _} (v : Vector α m)
    (nil : motive nil) (cons : ∀ {n}, (hd : α) → (tl : Vector α n) → motive (Vector.cons hd tl)) :
    motive v :=
  inductionOn (C := motive) v nil @fun _ hd tl _ => cons hd tl
```

**Review by gebner — COMMENTED** [review]
I think this is good to go modulo whitespace changes.

bors d+

**Comment by alexkeizer** [comment]
bors merge
